US07829560B2
To a solution of 4-(3-chloropropoxy)naphthalen-1-amine (2.85 g, 10.5 mmol) and 3-fluoro-5-piperidin-1-ylbenzoic acid (3.52 g, 15.7 mmol), in DMF (30 ml) is added HBTU (7.1 g, 18.9 mmol), and Hunig's base (6.0 ml, 33.6 mmol). The mixture is stirred overnight at room temperature then diluted with ethyl acetate (200 ml) and washed with water (3×100 ml). The organic layer is dried over Na2SO4 and evaporated. The residue is purified by column chromatography on silica gel to yield N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide as a white solid (3.0 g, 65%). Mp: 181-182° C. 1H NMR (300 MHz, DMSO-d6) δ 10.25 (s, 1H), 8.26 (m, 1H), 7.87 (m, 1H), 7.55 (m, 2H), 7.46 (s, 1H), 7.43 (d, J=8.1Hz, 1H), 7.17 (d, J=9.3 Hz, 1H), 7.04 (d, J=8.4 Hz, 1H), 6.97 (d, J=10.5 Hz, 1H), 4.33 (t, J=6.0 Hz, 2H), 3.96 (t, J=6.6, Hz, 2H), 3.29 (m, 4H), 2.34 (m, 6H), 1.59 (m, 6H). MS: 441.3 (M+1).

reactant | 4-(3-chloropropoxy)naphthalen-1-amine | 10.5 mmol, 2.85 g | ClCCCOC1=CC=C(C2=CC=CC=C12)N | C13H14ClNO
reactant | 3-fluoro-5-piperidin-1-ylbenzoic acid | 15.7 mmol, 3.52 g | FC=1C=C(C(=O)O)C=C(C1)N1CCCCC1 | C12H14FNO2
reactant | HBTU | 18.9 mmol, 7.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's base | 33.6 mmol, 6.0 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | 3.0 g, 65% | ClCCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C25H26ClFN2O2
